US09108921B2
Step E: Compound 404: (E)-N-(4-(4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide
To a round-bottom flask was added with (E)-4-(4,4,4-trifluorobut-1-enyl)piperidin-4-ol (50 mg 0.24 mmol), 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid (80 mg, 0.24 mmol), DIPEA (155 mg, 1.2 mmol), HATU (110 mg, 0.29 mmol), and DCM (5 mL). The mixture was stirred at r.t. for 16 hours. After washing with brine, the combined organic layer was dried over anhy. Na2SO4 and concentrated in vacuo. Purification by a standard method gave the desired compound. 1H NMR (CHLOROFORM-d) δ: 9.31 (s, 1H), 8.19 (d, J=8.1 Hz, 1H), 8.10 (d, J=7.5 Hz, 1H), 7.99 (s, 1H), 7.54 (t, J=7.8 Hz, 1H), 7.17-7.24 (m, J=8.3 Hz, 2H), 7.08-7.15 (m, J=8.1 Hz, 2H), 5.78-5.94 (m, 1H), 5.64-5.76 (m, 1H), 4.28-4.47 (m, 1H), 3.51 (s, 1H), 3.32-3.48 (m, 1H), 3.27 (br. s., 1H), 2.84 (dd, J=10.5, 7.0 Hz, 1H), 1.66 (br. s., 4H), 1.46 (d, J=9.7 Hz, 2H). LC-MS: m/z 526.7 (M+H)+

reactant | (E)-4-(4,4,4-trifluorobut-1-enyl)piperidin-4-ol | 0.24 mmol, 50 mg | FC(C/C=C/C1(CCNCC1)O)(F)F | C9H14F3NO
reactant | 4-(benzo[d]thiazole-4-sulfonamido)benzoic acid | 0.24 mmol, 80 mg | S1C=NC=2C1=CC=CC2S(=O)(=O)NC2=CC=C(C(=O)O)C=C2 | C14H10N2O4S2
reactant | DIPEA | 1.2 mmol, 155 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.29 mmol, 110 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (E)-N-(4-(4-hydroxy-4-(4,4,4-trifluorobut-1-enyl)piperidine-1-carbonyl)phenyl)benzo[d]thiazole-4-sulfonamide | OC1(CCN(CC1)C(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=CC=C2C1N=CS2)\C=C\CC(F)(F)F | C23H22F3N3O4S2
